US06002008
To a stirred suspension of 1 g of 7-benzyloxy-4-hydroxy-6-methoxy-quinoline-3-carbonitrile in 10 ml of methylene chloride was added 5 ml of oxalyl chloride (2M in methylene chloride), and 2 drops of N,N-dimethylformamide. The mixture was refluxed for 20 min and to it was slowly added aqueous sodium bicarbonate until the bubbling ceased. Following separation of the layers, the organic layer was evaporated to a small volume, then passed through a plug of magnesol. Elution with 50 ml methylene chloride, followed by evaporation provided 0.6 g of 7-benzyloxy-4-chloro-6-methoxy-quinoline-3-carbonitrile as a pale yellow solid, mp 282-284° C.; mass spectrum (electrospray, m/e) M+H 325.

reactant | 7-benzyloxy-4-hydroxy-6-methoxy-quinoline-3-carbonitrile | 1 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)O)OC | C18H14N2O3
reactant | oxalyl chloride | 2M, 5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 7-benzyloxy-4-chloro-6-methoxy-quinoline-3-carbonitrile | 0.6 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C18H13ClN2O2
